US05458975
0.70 g allyl methacrylate
The initiator solution comprised 0.70 g bis(4-tert-butylcyclohexyl)-peroxydicarbonate in 6.3 g cyclohexane.

reactant | bis(4-tert-butylcyclohexyl)-peroxydicarbonate | 0.70 g | C(C)(C)(C)C1CCC(CC1)OC(=O)OOC(=O)OC1CCC(CC1)C(C)(C)C | C22H38O6
reactant | cyclohexane | 6.3 g | C1CCCCC1 | C6H12
product | allyl methacrylate | C(C(=C)C)(=O)OCC=C | C7H10O2
